### PR TITLE
[Merged by Bors] - feat(Analysis): the topology of pointwise convergence is locally convex

### PR DESCRIPTION
**Pull request by mcdoll**
Show that the pointwise convergence topology is locally convex both in the sense of `WithSeminorms` and `LocallyConvexSpace`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite/Lemmas.lean [hunk 1]
```diff
@@ -59,6 +59,11 @@ theorem Finite.induction_to_univ [Finite α] {C : Set α → Prop} (S0 : Set α)
     (H0 : C S0) (H1 : ∀ S ≠ univ, C S → ∃ a ∉ S, C (insert a S)) : C univ :=
   finite_univ.induction_to S0 (subset_univ S0) H0 (by simpa [ssubset_univ_iff])
 
+theorem sUnion_finite_eq_univ {X : Type*} : ⋃₀ {(s : Set X) | Set.Finite s} = Set.univ := by
+  rw [sUnion_eq_univ_iff]
+  intro x
+  exact ⟨{x}, finite_singleton x, Eq.refl x⟩
```
Comment (mcdoll) [inline Mathlib/Data/Set/Finite/Lemmas.lean]:
```suggestion
theorem sUnion_finite_eq_univ {X : Type*} : ⋃₀ {(s : Set X) | Set.Finite s} = Set.univ :=
  sUnion_eq_univ_iff.mpr fun x ↦ ⟨{x}, finite_singleton x, rfl⟩
```

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 2]
```diff
@@ -62,6 +62,9 @@ notation:25 E " →Lₚₜ[" R "] " F => PointwiseConvergenceCLM (RingHom.id R)
 
 namespace PointwiseConvergenceCLM
 
+instance [T2Space F] : T2Space (E →SLₚₜ[σ] F) :=
+  UniformConvergenceCLM.t2Space _ _ _ Set.sUnion_finite_eq_univ
+
 instance continuousEvalConst : ContinuousEvalConst (E →SLₚₜ[σ] F) E F :=
   UniformConvergenceCLM.continuousEvalConst _ _ _
     (sUnion_eq_univ_iff.mpr fun x ↦ ⟨{x}, finite_singleton x, rfl⟩)
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean]:
```suggestion
instance [T2Space F] : T2Space (E →SLₚₜ[σ] F) :=
  UniformConvergenceCLM.t2Space _ _ _ Set.sUnion_finite_eq_univ

instance continuousEvalConst : ContinuousEvalConst (E →SLₚₜ[σ] F) E F :=
  UniformConvergenceCLM.continuousEvalConst _ _ _ sUnion_finite_eq_univ
```

File: Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean [hunk 3]
```diff
@@ -62,9 +62,11 @@ notation:25 E " →Lₚₜ[" R "] " F => PointwiseConvergenceCLM (RingHom.id R)
 
 namespace PointwiseConvergenceCLM
 
+instance [T2Space F] : T2Space (E →SLₚₜ[σ] F) :=
+  UniformConvergenceCLM.t2Space _ _ _ Set.sUnion_finite_eq_univ
+
 instance continuousEvalConst : ContinuousEvalConst (E →SLₚₜ[σ] F) E F :=
-  UniformConvergenceCLM.continuousEvalConst _ _ _
-    (sUnion_eq_univ_iff.mpr fun x ↦ ⟨{x}, finite_singleton x, rfl⟩)
+  UniformConvergenceCLM.continuousEvalConst _ _ _ sUnion_finite_eq_univ
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/PointwiseConvergence.lean]:
```suggestion
  UniformConvergenceCLM.continuousEvalConst _ _ _ Set.sUnion_finite_eq_univ
```

File: Mathlib/Analysis/LocallyConvex/PointwiseConvergence.lean [hunk 4]
```diff
@@ -0,0 +1,80 @@
...
+/-- The coercion `E →SLₚₜ[σ] F` to `E → F` as a linear map.
+
+The topology on `E →SLₚₜ[σ] F` is induced by this map. -/
+def inducingFn : (E →SLₚₜ[σ] F) →ₗ[𝕜₂] (E → F) where
+  toFun f := f
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+
+variable (σ E F) in
+theorem inducingFn_isInducing : Topology.IsInducing (inducingFn σ E F) :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/LocallyConvex/PointwiseConvergence.lean]:
```suggestion
theorem isInducing_inducingFn : Topology.IsInducing (inducingFn σ E F) :=
```

File: Mathlib/Data/Set/Finite/Lemmas.lean [hunk 5]
```diff
@@ -59,6 +59,9 @@ theorem Finite.induction_to_univ [Finite α] {C : Set α → Prop} (S0 : Set α)
     (H0 : C S0) (H1 : ∀ S ≠ univ, C S → ∃ a ∉ S, C (insert a S)) : C univ :=
   finite_univ.induction_to S0 (subset_univ S0) H0 (by simpa [ssubset_univ_iff])
 
+theorem sUnion_finite_eq_univ {X : Type*} : ⋃₀ {(s : Set X) | Set.Finite s} = Set.univ :=
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Finite/Lemmas.lean:62]: I'm okay with this name, but consider switching to `Set.sUnion_finite` to match `Set.sUnion_singleton`. I realize this could perhaps be expected to say that a finite union of finite sets is finite, which is instead `Set.Finite.sUnion`, so I am okay if you prefer the disambiguation.

File: Mathlib/Topology/Algebra/Module/StrongTopology.lean [hunk 6]
```diff
@@ -141,6 +141,19 @@ theorem isEmbedding_coeFn [UniformSpace F] [IsUniformAddGroup F] (𝔖 : Set (Se
...
     AddCommGroup (UniformConvergenceCLM σ F 𝔖) := ContinuousLinearMap.addCommGroup
 
+@[simp]
+theorem neg_apply [TopologicalSpace F] [IsTopologicalAddGroup F] (𝔖 : Set (Set E))
+    (f : UniformConvergenceCLM σ F 𝔖) (x : E) : (-f) x = -f x :=
+  rfl
+
+theorem add_apply [TopologicalSpace F] [IsTopologicalAddGroup F] (𝔖 : Set (Set E))
+    (f g : UniformConvergenceCLM σ F 𝔖) (x : E) : (f + g) x = f x + g x :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/StrongTopology.lean:151]: A `sum` version might be handy too.

**Review by j-loreaux — COMMENTED** [review]
Pretty straightforward. Thanks for implementing this!

bors d+

File: Mathlib/Data/Set/Finite/Lemmas.lean (hunk 5 above)
Comment (mcdoll) [reply Mathlib/Data/Set/Finite/Lemmas.lean:62]: The current spelling is consistent with the versions of von Neumann bounded sets and compact sets, so I rather keep this name.

**Comment by mcdoll** [comment]
bors merge
